US06746729B1
A solution of mesyl chloride (3.44 g) in 50 ml of dry THF was added dropwise under argon to a cooled (−25° C.) solution of 4-(6-acryloyloxyhexyloxy)benzoic acid (8.35 g) and triethylamine (6.07 g) in 100 ml of dry THF. After complete addition (15 min), the reaction mixture was stirred for a further 30 min at −25° C., treated with a solution of 2,5-dihydroxybenzoic-6-acryloyloxyhexyl ester in 50 ml of dry THF and further stirred at −25° C. for 4 h. The reaction mixture was then filtered through celite and the solvent was removed by evaporation. The filtrate was purified by flash chromatography using a short silica-gel column and dichloromethane/diethylether (39/1) as eluent to give 10.8 g of 5-[4-(6-acryloyloxyhexyloxy)benzoyloxy]-2-hydroxybenzoic acid 6-acryloyloxyhexyl ester as a slightly beige oil.

reactant | mesyl chloride | 3.44 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-(6-acryloyloxyhexyloxy)benzoic acid | 8.35 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | triethylamine | 6.07 g | C(C)N(CC)CC | C6H15N
reactant | 2,5-dihydroxybenzoic-6-acryloyloxyhexyl ester | C(C=C)(=O)OCCCCCCOC(C1=C(C=CC(=C1)O)O)=O | C16H20O6
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-[4-(6-acryloyloxyhexyloxy)benzoyloxy]-2-hydroxybenzoic acid 6-acryloyloxyhexyl ester | 10.8 g | C(C=C)(=O)OCCCCCCOC(C1=C(C=CC(=C1)OC(C1=CC=C(C=C1)OCCCCCCOC(C=C)=O)=O)O)=O | C32H38O10
